US07148218B2
j) Preparation of ((4R)-3-[(2R,3S,4R,5S,6S,7Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5-[(4-methoxyphenyl)methoxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]4-(phenylmethyl)-2-oxazolidinone.
A solution of (4R)-3-[(2R,3S,4S,5S,6S,7Z)-3-hydroxy-5-[(4-methoxyphenyl)methoxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]-4-(phenylmethyl)-2-oxazolidinone (3.4 g, 6.53 mmol), 2,6-lutidine (3.5 g, 32.65 mmol) and methylene chloride (100 mL) is cooled to 0° C. TBSOTf (7.12 g, 26.94 mmol)is added over 30 min and the resultant mixture is allowed to react overnight at 0° C. The mixture is diluted with ether (300 mL), washed with aqueous NaHSO4, brine, and concentrated. Flash chromatography affords the desired compound (3.6 g, 87%) as an oil.

reactant | (4R)-3-[(2R,3S,4S,5S,6S,7Z)-3-hydroxy-5-[(4-methoxyphenyl)methoxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]-4-(phenylmethyl)-2-oxazolidinone | 6.53 mmol, 3.4 g | O[C@H]([C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)C)[C@@H]([C@H]([C@H](\C=C/C=C)C)OCC1=CC=C(C=C1)OC)C | C31H39NO6
reactant | 2,6-lutidine | 32.65 mmol, 3.5 g | N1=C(C=CC=C1C)C | C7H9N
reactant | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
reactant | TBSOTf | 26.94 mmol, 7.12 g | [Si](C)(C)(C(C)(C)C)OS(=O)(=O)C(F)(F)F | C7H15F3O3SSi
solvent | ether | 300 mL | CCOCC | C4H10O
product | (4R)-3-[(2R,3S,4R,5S,6S,7Z)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-5-[(4-methoxyphenyl)methoxy]-2,4,6-trimethyl-1-oxo-7,9-decadienyl]4-(phenylmethyl)-2-oxazolidinone | 3.6 g, 87% | CC(C)(C)[Si](O[C@H]([C@H](C(=O)N1C(OC[C@H]1CC1=CC=CC=C1)=O)C)[C@@H]([C@H]([C@H](\C=C/C=C)C)OCC1=CC=C(C=C1)OC)C)(C)C | C37H53NO6Si
